US07572791B2
Methyl 2-hydroxy-3-trifluoromethanesulfonyloxy-benzoate
To methyl 2,3-dihydroxybenzoate (2.1 g, 12.5 mmol) dissolved in dichloromethane (50 mL) was added pyridine (2.0 ml, 25 nmol) and dimethylaminopyridine (150 mg, 1.25 mmol). The mixture was cooled to 0° C. and trifluoromethane sulfonic anhydride was added dropwise by syringe. The ice bath was removed and stirred at room temperature for 60 h. The organic layer was washed twice with 1 M HCl (20 ml), dried (Na2SO4) and concentrated to dryness in vacuo. The solid was recrystallized from ethyl acetate to yield colourless crystals (2.5 g).

reactant | methyl 2,3-dihydroxybenzoate | 12.5 mmol, 2.1 g | OC1=C(C(=O)OC)C=CC=C1O | C8H8O4
reactant | dimethylaminopyridine | 1.25 mmol, 150 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | trifluoromethane sulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | pyridine | 25 nmol, 2.0 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-hydroxy-3-trifluoromethanesulfonyloxy-benzoate | 2.5 g | OC1=C(C(=O)OC)C=CC=C1OS(=O)(=O)C(F)(F)F | C9H7F3O6S
